US07449456B2
A 5 ml NMP solution of 352 mg of 4-morpholinoaniline was mixed with 0.95 ml of 4 M hydrogen chloride/1,4-dioxane solution and 400 mg of 4-benzylamino-2-chloropyrimidine-5-carboxamide, followed by stirring at 90° C. for 3 hours. The reaction mixture was cooled down to room temperature, and then the precipitate was collected by filtration. The collected solid was mixed with saturated sodium bicarbonate aqueous solution and extracted with a mixed solution of THF-ethyl acetate. The organic layer was washed with saturated brine, and then the solvent was evaporated. The resulting residue was crystallized by adding methanol and then recrystallized (methanol-THF) to obtain 264 mg of 4-benzylamino-2-{[4-(morpholin-4-yl)phenyl]amino}pyrimidine -5-carboxamide as colorless crystals.

reactant | 4-morpholinoaniline | 352 mg | O1CCN(CC1)C1=CC=C(N)C=C1 | C10H14N2O
reactant | hydrogen chloride 1,4-dioxane | 4 M, 0.95 ml | Cl.O1CCOCC1
reactant | 4-benzylamino-2-chloropyrimidine-5-carboxamide | 400 mg | C(C1=CC=CC=C1)NC1=NC(=NC=C1C(=O)N)Cl | C12H11ClN4O
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
product | 4-benzylamino-2-{[4-(morpholin-4-yl)phenyl]amino}pyrimidine -5-carboxamide | 264 mg | C(C1=CC=CC=C1)NC1=NC(=NC=C1C(=O)N)NC1=CC=C(C=C1)N1CCOCC1 | C22H24N6O2
